US07572820B2
A mixture of {[6-amino-3-cyano-2-(trifluoromethyl)phenyl]methyl}(triphenyl) phosphonium bromide (0.50 g, 0.92 mmol), 3,3,3-trifluoropropanoic acid (0.175 g, 1.40 mmol), 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphorinane 2,4,6-trioxide (2.60 g, 4.10 mmol, 50% in EtOAc) and DIEA (0.65 mL, 3.70 mmol) in THF (25 mL) was stirred at ambient temperature for 6 h. The mixture was concentrated and then diluted with anhydrous DMF (15 mL) and stirred at 100° C. for 18 h. The reaction was poured into water (100 mL) and extracted with Et2O (2×60 mL). The combined organic portions were washed with sat'd NaHCO3 (50 mL) and brine (50 mL). Drying (MgSO4), filtration, and concentration was followed by purification (SiO2, 30% EtOAc in hexanes) to afford 2-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile (0.189 g, 70%) as a pale yellow solid: 1H NMR (400 MHz, DMSO-d6) δ 12.36 (b, 1H), 7.84 (d, J=8.3 Hz, 1H), 7.70 (d, J=8.3 Hz, 1H), 6.72 (s, 1H), 4.00 (q, 2H).

reactant | {[6-amino-3-cyano-2-(trifluoromethyl)phenyl]methyl}(triphenyl) phosphonium bromide | 0.92 mmol, 0.50 g | [Br-].NC1=CC=C(C(=C1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F)C#N
reactant | 3,3,3-trifluoropropanoic acid | 1.40 mmol, 0.175 g | FC(CC(=O)O)(F)F | C3H3F3O2
reactant | 2,4,6-tripropyl-1,3,5,2,4,6-trioxatriphosphorinane 2,4,6-trioxide | 4.10 mmol, 2.60 g | C(CC)P1(OP(OP(O1)(CCC)=O)(CCC)=O)=O | C9H21O6P3
reactant | DIEA | 3.70 mmol, 0.65 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-(2,2,2-trifluoroethyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | 0.189 g, 70% | FC(CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N)(F)F | C12H6F6N2
